US03960539
Cyclopentyl dimethyl (1-hydroxy-p-menth-2-yl) ammonium bromide
By analogues procedure using cyclohexyl bromide there was also prepared cyclohexyl dimethyl (1-hydroxy-p-menth-2-yl) ammonium bromide.

reactant | cyclohexyl bromide | C1(CCCCC1)Br | C6H11Br
reactant | cyclohexyl dimethyl (1-hydroxy-p-menth-2-yl) ammonium bromide | [Br-].C1(CCCCC1)[N+](C1C(CCC(C1)C(C)C)(C)O)(C)C
product | Cyclopentyl dimethyl (1-hydroxy-p-menth-2-yl) ammonium bromide | [Br-].C1(CCCC1)[N+](C1C(CCC(C1)C(C)C)(C)O)(C)C | InChI=1S/C17H34NO.BrH/c1-13(2)14-10-11-17(3,19)16(12-14)18(4,5)15-8-6-7-9-15;/h13-16,19H,6-12H2,1-5H3;1H/q+1;/p-1
